US04786648
A solution of 1-(1,2,3,6-tetrahydro-1-methyl-4pyridinyl)ethanone, O-methyloxime (3 g, 17.8 mmol) in 20 ml dry dichloromethane was cooled to 0° C., treated dropwise with 1-chloroethylchloroformate (2.55 g, 17.8 mmol), and stirred 18 hours at room temperature. The reaction mixture was then concentrated in vacuo to an oil which was heated under reflux one hour in 50 ml of methanol. The methanol was distilled off and the residue was chromatographed over silica gel eluting with 5% methanol in ethyl acetate. The desired fractions were combined, concentrated in vacuo, and treated with methanolic hydrogen chloride to give 1.75 g of 1-(1,2,3,6-tetrahydro-4-pyridinyl)ethanone, O-methyloxime hydrochloride, mp 185°-186° C.

reactant | 1-(1,2,3,6-tetrahydro-1-methyl-4pyridinyl)ethanone | CN1CCC(=CC1)C(C)=O | C8H13NO
reactant | 1-chloroethylchloroformate | 17.8 mmol, 2.55 g | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(1,2,3,6-tetrahydro-4-pyridinyl)ethanone | 1.75 g | N1CCC(=CC1)C(C)=O | C7H11NO
